US08440660B2
5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxycarbonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 5-1)
5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 3-1, 25.0 mg, 0.058 mmol) was dissolved in tetrahydrofuran (0.5 mL), triethylamine (23 μL, 0.17 mmol) and methyl chlorocarbonate (6.8 μL, 0.088 mmol) were added thereto, and then the mixture was stirred at room temperature for 20 minutes. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (28.0 mg) as a colorless amorphous product. (Yield 99%)

reactant | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(4-hydroxy-2-methoxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 0.058 mmol, 25.0 mg | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)O)OC)(C)C)C)C1)C | C27H28FNO3
reactant | triethylamine | 0.17 mmol, 23 μL | C(C)N(CC)CC | C6H15N
reactant | methyl chlorocarbonate | 0.088 mmol, 6.8 μL | C(OC)(=O)Cl | C2H3ClO2
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
product | 5-(5-Fluoro-2-methylphenoxymethyl)-6-(2-methoxy-4-methoxycarbonyloxyphenyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 28.0 mg, Yield 99% | FC=1C=CC(=C(OCC2=C3C(=CC(NC3=CC=C2C2=C(C=C(C=C2)OC(=O)OC)OC)(C)C)C)C1)C | C29H30FNO5
